US07230098B2
The solution of (3-{6-Amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-prop-2-ynyl)-carbamic acid tert-butyl ester in 25% TFA in dichloromethane was stirred for 2 hr, then washed by 2N NaOH, water twice, brine, dried over Na2SO4. After filtration and evaporation, 5-(3-amino-prop-1-ynyl)-3-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-2-ylamine was obtained in 93% yield.

reactant | (3-{6-Amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-prop-2-ynyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC#CC=1C=NC(=C(C1)OC(C)C1=C(C(=CC=C1Cl)F)Cl)N)=O | C21H22Cl2FN3O3
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(3-amino-prop-1-ynyl)-3-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-2-ylamine | 93% yield | NCC#CC=1C=C(C(=NC1)N)OC(C)C1=C(C(=CC=C1Cl)F)Cl | C16H14Cl2FN3O
